US05250735
4.1 g of dimethylamine hydrochloride, 3.7 g of paraformaldehyde and 20 ml of ethanol were added with 5 drops of concentrated hydrochloric acid to 7.6 g of 2-(E)-pentylidene cyclopentanone. After refluxing for about 2 hours, the resulting solution was mixed with 2.2 g of paraformaldehyde and then refluxed for about 2 additional hours. The solution was treated with activated charcoal and filtered. The filtrate was allowed to stand overnight, filtered and washed with cold ether containing a small amount of absolute ethanol to give 7.7 g of 2-Dimethylaminomethyl-5-(E)-pentylidene cyclopentanone hydrochloride as colorless leaflets. The melting point of the product was determined to be 156°-157° C.

reactant | dimethylamine hydrochloride | 4.1 g | Cl.CNC
reactant | paraformaldehyde | 3.7 g | C=O | CH2O
reactant | 2-(E)-pentylidene cyclopentanone | 7.6 g | C(/CCCC)=C/1\C(CCC1)=O | C10H16O
reactant | paraformaldehyde | 2.2 g | C=O | CH2O
reactant | charcoal | C | CH4
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Dimethylaminomethyl-5-(E)-pentylidene cyclopentanone hydrochloride | 7.7 g | Cl.CN(C)CC1C(/C(/CC1)=C/CCCC)=O | InChI=1S/C13H23NO.ClH/c1-4-5-6-7-11-8-9-12(13(11)15)10-14(2)3;/h7,12H,4-6,8-10H2,1-3H3;1H/b11-7+;
